US08293751B2
Intermediate 4-chloro-6-(4-methylsulfanyl-phenylamino)-pyrimidine-5-carbonitrile was prepared in a similar manner as described herein using 4,6-dichloro-pyrimidine-5-carbonitrile and 4-methylsulfanyl-phenylamine. 1H-NMR (DMSO-d6): 10.22 (1H, s), 8.53 (1H, s) 7.43 (2H, m), 7.40 (2H, m), 2.49 (3H, s) ppm. LCMS: 277.0, 234.0, 149.0.

reactant | 4,6-dichloro-pyrimidine-5-carbonitrile | ClC1=NC=NC(=C1C#N)Cl | C5HCl2N3
reactant | 4-methylsulfanyl-phenylamine | CSC1=CC=C(C=C1)N | C7H9NS
product | 4-chloro-6-(4-methylsulfanyl-phenylamino)-pyrimidine-5-carbonitrile | ClC1=NC=NC(=C1C#N)NC1=CC=C(C=C1)SC | C12H9ClN4S
